US05278326
Step A: Preparation of β-oxo-δ-phenyl-δ-(tetrahydro-2H-pyran-2-yl)oxybenzenepentanoic acid ethyl ester
The title compound (J. W. Wolfe, et al, J. Org. Chem. 29, 3249 (1964) ) was prepared from δ-hydroxy-β-oxo-δ-phenylbenzenepentanoic acid ethyl ester (2.0 g, 0.006 mol), p-toluenesulfonic acid (0.014 g, 0.60 mmol), and 3,4-dihydro-2H-pyran (0.77 g, 0.009 mol) using the procedure described in Example 6, Step A.

reactant | δ-hydroxy-β-oxo-δ-phenylbenzenepentanoic acid ethyl ester | 0.006 mol, 2.0 g | C(C)OC(CC(CC(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O)=O | C19H20O4
reactant | p-toluenesulfonic acid | 0.60 mmol, 0.014 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 3,4-dihydro-2H-pyran | 0.009 mol, 0.77 g | O1CCCC=C1 | C5H8O
product | β-oxo-δ-phenyl-δ-(tetrahydro-2H-pyran-2-yl)oxybenzenepentanoic acid ethyl ester | C(C)OC(CC(CC(C1=CC=CC=C1)(OC1OCCCC1)C1=CC=CC=C1)=O)=O | C24H28O5
